US07652049B2
To a solution of (4S,5S)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (147.7 mg, 0.239 mmol) in EtOH (7.5 mL) was added H2O (1.5 mL) and KOH (150 mg, 2.67 mmol). The solution was heated to 75° C. for 30 h and then cooled to room temperature. EtOAc (75 mL) was added and the organic layer was washed with H2O (15 mL) and brine (2×15 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography to afford (1S,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)propan-1-ol. Rf=0.44 (40% EtOAc/hexanes). LCMS=594.2 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 6.93-7.78 (m, 9H), 3.51-4.20 (m, 6H), 2.91 (m, 1H), 2.49 (m, 1H), 1.22-1.26 (m, 6H), 0.79-0.81 (m, 3H).

reactant | (4S,5S)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.239 mmol, 147.7 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C)(F)F | C30H26F9NO3
reactant | H2O | 1.5 mL | O | H2O
reactant | KOH | 2.67 mmol, 150 mg | [OH-].[K+]
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 7.5 mL | CCO | C2H6O
product | (1S,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)propan-1-ol | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]([C@H](C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)O)(F)F | C29H28F9NO2
